US03941803
In the manner given in Example 1, 5-chloro-2',6'-difluoro-2-(imidazol-1-yl)benzophenone is heated in a bomb to 150° C. with 37% aqueous formaldehyde solution to give 5-chloro-2',6'-difluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone.

reactant | 5-chloro-2',6'-difluoro-2-(imidazol-1-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C=NC=C1 | C16H9ClF2N2O
reactant | formaldehyde | C=O | CH2O
product | 5-chloro-2',6'-difluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2F)F)C1)N1C(=NC=C1)CO | C17H11ClF2N2O2
